US07566739B2
5d) 3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOL
A mixture of 1,3-difluoro-5-methoxy-2-(2,2,2-trifluoro-1,1-dimethylethyl)benzene (7.93 g, 31.2 mmol) and 1 M dichloromethane solution of boron tribromide (150 ml, 150 mmol) was stirred at room temperature for 16 hours. Then, the reaction was quenched with water and the product was extracted with ethyl acetate which was dried over sodium sulfate. Then, filtration, evaporation, purification by silica gel column chromatography, eluting with hexane/ethy lacetate (10:1), furnished 7.79 g (quant.) of the title compound as a brown solid.

reactant | 1,3-difluoro-5-methoxy-2-(2,2,2-trifluoro-1,1-dimethylethyl)benzene | 31.2 mmol, 7.93 g | FC1=C(C(=CC(=C1)OC)F)C(C(F)(F)F)(C)C | C11H11F5O
reactant | boron tribromide | 150 mmol, 150 ml | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 1 M | ClCCl | CH2Cl2
product | 3,5-DIFLUORO-4-(2,2,2-TRIFLUORO-1,1-DIMETHYLETHYL)PHENOL | FC=1C=C(C=C(C1C(C(F)(F)F)(C)C)F)O | C10H9F5O
